US09399623B2
To a stirred solution of 6-chloro-2-(3-oxo-cyclopentyl)-quinoline-5-carboxylic acid (4,4-difluoro-1-hydroxycyclohexylmethyl)-amide (0.30 g, 0.28 mmol, 1.00 eq) in DCM (15.00 ml, 50.00 V) were added Et3N (0.09 g, 0.84 mmol, 3.00 eq) and dimethylamine solution 2.0 M in THF (0.70 mL, 1.40 mmol, 5.00 eq) at 0° C., and warmed to room temperature. The reaction mixture was stirred at RT for 1 h and sodium triacetoxyborohydride (0.09 g, 0.42 mmol, 1.50 eq) was added and the reaction mixture was stirred at RT for 16 h and the solvent was removed under vacuum. The crude product was purified by prep HPLC to provide 6-chloro-2-(3-dimethylaminocyclopentyl)-quinoline-5-carboxylic acid (4,4-difluoro-1-hydroxy-cyclohexyl methyl)-amide (0.03 g, 0.06 mmol, 22.3%, Brown solid). 1H NMR (400 MHz, DMSO-d6): δ 8.81 (t, J=5.82 Hz, 1H), 8.01-7.96 (m, 2H), 7.76-7.74 (m, 1H), 7.60-7.56 (m, 1H), 7.56-3.28 (m, 1H), 3.27-3.25 (m, 2H), 2.68-2.57 (m, 1H), 2.56-2.48 (m, 1H), 2.25-2.16 (m, 1H), 2.15-2.07 (m, 6H), 2.06-1.96 (m, 5H), 1.96-1.90 (m, 4H), 1.88-1.83 (m, 2H), 1.78-1.72 (m, 1H), 1.30-1.24 (m, 2H). m/z: 450.2 [M+H]+

reactant | 6-chloro-2-(3-oxo-cyclopentyl)-quinoline-5-carboxylic acid (4,4-difluoro-1-hydroxycyclohexylmethyl)-amide | 0.28 mmol, 0.30 g, 1.00 eq | FC1(CCC(CC1)(O)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)C1CC(CC1)=O)F | C22H23ClF2N2O3
reactant | Et3N | 0.84 mmol, 0.09 g, 3.00 eq | CCN(CC)CC | C6H15N
reactant | dimethylamine | 2.0 M | CNC | C2H7N
reactant | THF | 1.40 mmol, 0.70 mL, 5.00 eq | C1CCOC1 | C4H8O
reactant | sodium triacetoxyborohydride | 0.42 mmol, 0.09 g, 1.50 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | 15.00 ml | C(Cl)Cl | CH2Cl2
product | 6-chloro-2-(3-dimethylaminocyclopentyl)-quinoline-5-carboxylic acid (4,4-difluoro-1-hydroxy-cyclohexyl methyl)-amide | 0.06 mmol, 0.03 g, 22.3% | FC1(CCC(CC1)(O)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)C1CC(CC1)N(C)C)F | C24H30ClF2N3O2
